US06329380B1
2-[1-(1-(N-(1,2,3,4-Tetrahydroisoquinolyl)carbamoyl)piperidin-3-yl)ethylamino]-4-[benzimidazol-1-yl]pyrimidine
To a solution of 2-[1-(1-(4-nitrophenyl)oxycarbonylpiperidin-3-yl)-ethylamino]-4-[benzimidazol-1-yl]pyrimidine (14.5 mg, 0.03 mmol) in CH2Cl2 (0.5 mL) was added 1,2,3,4-tetrahydroisoquinoline (4.3 gL, 0.033 mmol) followed by a few crystals of dimethylaminopyridine. The reaction mixture was stirred for 4 days, the solvent was removed under reduced pressure, and the crude material was purified by preparative thin layer chromatography eluting with 1:1 acetone:hexane to obtain 4 mg of the title compound. Partial 1H NMR (500 MHz, CDCl3): δ 8.61 (s, 1H); 8.37 (br s, 1H); 8.16 (d, J=7.3 Hz, 1H); 7.86 (d, J=7.3 Hz, 1H); 7.39 m, 2H); 7.15-7.04 (aromatic H's, 4H); 6.78 (d, J=5.5 Hz, 1H); 4.4 (s, 2H); 1.31 (d, J=6.6 Hz, 3H). Mass spectrum 482.4 (LC-MS, M+1).

reactant | 2-[1-(1-(4-nitrophenyl)oxycarbonylpiperidin-3-yl)-ethylamino]-4-[benzimidazol-1-yl]pyrimidine | 0.03 mmol, 14.5 mg | [N+](=O)([O-])C1=CC=C(C=C1)OC(=O)N1CC(CCC1)C(C)NC1=NC=CC(=N1)N1C=NC2=C1C=CC=C2 | C25H25N7O4
reactant | 1,2,3,4-tetrahydroisoquinoline | 0.033 mmol | C1NCCC2=CC=CC=C12 | C9H11N
reactant | dimethylaminopyridine | CN(C)C1=NC=CC=C1 | C7H10N2
solvent | CH2Cl2 | 0.5 mL | C(Cl)Cl | CH2Cl2
product | 2-[1-(1-(N-(1,2,3,4-Tetrahydroisoquinolyl)carbamoyl)piperidin-3-yl)ethylamino]-4-[benzimidazol-1-yl]pyrimidine | 4 mg | C1(NCCC2=CC=CC=C12)NC(=O)N1CC(CCC1)C(C)NC1=NC=CC(=N1)N1C=NC2=C1C=CC=C2 | C28H32N8O
